US06921821B2
N-(4-Chlorophenyl)-N-(2,2,2-trifluoroethyl)malonamic acid t-butyl ester
(4-Chlorophenyl) (2,2,2-trifluoroethyl)amine (1.84 g, 8.8 mmol) and mono-t-butyl malonate (1.37 mL, 8.9 mmol) were dissolved in DCM (50 mL) and the solution cooled in an ice bath prior to portion wise addition of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.71 g, 8.9 mmol). After one hour the reaction was complete by TLC and was diluted with ethyl acetate and sequentially washed with 1 N NaOH, 1N HCl, and brine. The organic layer was dried with MgSO4 and concentrated under reduced pressure to give a white solid which was used without further purification. 1H NMR (300 MHz, CDCl3) δ ppm 1.40 (9H, s), 3.13 (2H, s), 4.34 (2H, q, J=8.7 Hz), 7.22 (2H, m), 7.41 (2H, m).

reactant | (4-Chlorophenyl) (2,2,2-trifluoroethyl)amine | 8.8 mmol, 1.84 g | ClC1=CC=C(C=C1)NCC(F)(F)F | C8H7ClF3N
reactant | mono-t-butyl malonate | 8.9 mmol, 1.37 mL | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 8.9 mmol, 1.71 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Chlorophenyl)-N-(2,2,2-trifluoroethyl)malonamic acid t-butyl ester | C(C)(C)(C)OC(CC(=O)N(CC(F)(F)F)C1=CC=C(C=C1)Cl)=O | C15H17ClF3NO3
